US07601711B2
[1-(3-Chloro-phenyl)-5-(4-dimethylamino-piperidine-1-carbonyl)-1H-indol-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone
The title compound was synthesized in analogy to example 66, from (4,4-difluoro-piperidin-1-yl)-[5-(4-dimethylamino-piperidine-1-carbonyl)-1H-indol-2-yl]-methanone, 3-chlorophenylboronic acid, copper(II) acetate and pyridine in dichloromethane, to give the desired product as an off-white foam (28%).

reactant | (4,4-difluoro-piperidin-1-yl)-[5-(4-dimethylamino-piperidine-1-carbonyl)-1H-indol-2-yl]-methanone | FC1(CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CCC(CC1)N(C)C)F | C22H28F2N4O2
reactant | 3-chlorophenylboronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(II) acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | [1-(3-Chloro-phenyl)-5-(4-dimethylamino-piperidine-1-carbonyl)-1H-indol-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone | 28% | ClC=1C=C(C=CC1)N1C(=CC2=CC(=CC=C12)C(=O)N1CCC(CC1)N(C)C)C(=O)N1CCC(CC1)(F)F | C28H31ClF2N4O2
